US06362182B1
f. (+)-4-Nitrophenyl 2,2-dimethyl-3-(3,4-difluorophenyl)-5-oxo-morpholinecarboxylate
To a solution of (±)-2,2-dimethyl-3-(3,4-difluorophenyl)-5-oxo-morpholine (240 mg, 0.996 mmol) in THF (10 mL) at −78° C. was added lithium bis(trimethylsilyl)amide (1.10 mL, 1.0 M in THF). The mixture was stirred for 30 min at 0° C. and then cooled back to −78° C. The mixture was transferred via a cannula to a precooled solution of 4-nitrophenyl chloroformate (605 mg, 3.0 mmol) in THF (10 mL) at −78° C. The resulting mixture was stirred while warmed to room temperature over 3 hours. The reaction was quenched with water (2 mL) and extracted with EtOAc (2×100 mL). The organic layer was dried with Na2SO4 and the solvent was evaporated. The residue was purified by column chromatography (SiO2, 40:60 EtOAc/Hexanes) to afford 0.328 g (81%) of the product as a pale oil.

reactant | (±)-2,2-dimethyl-3-(3,4-difluorophenyl)-5-oxo-morpholine | 0.996 mmol, 240 mg | CC1(C(NC(CO1)=O)C1=CC(=C(C=C1)F)F)C | C12H13F2NO2
reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 1.10 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-nitrophenyl chloroformate | 3.0 mmol, 605 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (+)-4-Nitrophenyl 2,2-dimethyl-3-(3,4-difluorophenyl)-5-oxo-morpholinecarboxylate | 0.328 g, 81% | CC1(C(N(C(CO1)=O)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C1=CC(=C(C=C1)F)F)C | C19H16F2N2O6
